US04218235
A solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (4.95 g, 0.015 mole) in ether (100 ml.) was added dropwise with good agitation to a solution of m-cyanophenol (3.57 g, 0.03 mole) and triethylamine (3.03 g, 0.03 mole) in dry ether (50 ml.). The reaction mixture was stirred at room temperature for several hours, then filtered. The filtrate was washed with a 5% solution sodium hydroxide, dried over magnesium sulfate, and concentrated in vacuo to afford ethyl N-trifluoroacetyl-N-(bis(m-cyanophenoxy)phosphonomethyl)glycinate (3.4 g.) as a yellow gum, ND22 =1.5185.

reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.015 mole, 4.95 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | m-cyanophenol | 0.03 mole, 3.57 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | triethylamine | 0.03 mole, 3.03 g | C(C)N(CC)CC | C6H15N
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(bis(m-cyanophenoxy)phosphonomethyl)glycinate | 3.4 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OOC1=CC(=CC=C1)C#N)OOC1=CC(=CC=C1)C#N)(F)F | C21H17F3N3O8P
